US04681884
Hydrochloric acid (100 ml of 4N) is added dropwise to a mixture of 4-[2-(p-nitrophenyl)ethenyl]pyrimidine (28 g), ethanol (250 ml) and iron filings (28 g). The reaction temperature is increased to 65° C., and the mixture is stirred at that temperature for two hours. Water is added, followed by an aqueous 30% potassium hydroxide solution (200 ml), and chloroform (1 liter). The mixture is filtered through celite, and the chloroform layer is separated, dried over sodium sulfate and then concentrated. Addition of ether gives 4-[2-(p-aminophenyl)ethenyl]pyrimidine (10.3 g), m.p. 227°-230° C., which is used as the starting compound without further purification.

reactant | Hydrochloric acid | 4N, 100 ml | Cl | ClH
reactant | 4-[2-(p-nitrophenyl)ethenyl]pyrimidine | 28 g | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=NC=NC=C1 | C12H9N3O2
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 200 ml | [OH-].[K+]
catalyst | iron | [Fe] | Fe
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | 4-[2-(p-aminophenyl)ethenyl]pyrimidine | 10.3 g | NC1=CC=C(C=C1)C=CC1=NC=NC=C1 | C12H11N3
